US08309734B2
(3,4-Dihydro-2H-quinolin-1-yl)-[2-(3-trifluoromethyl-phenoxy)-pyridin-3-yl]-methanone
To a solution of 2-(3-trifluoromethyl-phenoxy)-nicotinic acid (200 mg, 0.71 mmol, 1.0 equiv) in anhydrous DMF (3 mL) was added 1,2,3,4-tetrahydro-quinoline (113 mg, 107 μL, 0.85 mmol, 1.2 equiv; [CAS RN 635-46-1]), N-ethyldiisopropylamine (457 mg, 617 μL, 3.53 mmol, 5.0 equiv; [CAS RN 7087-68-5]) and HATU (322 mg, 0.85 mmol, 1.2 equiv; [CAS RN 148893-10-1]). The reaction mixture was heated by microwave irradiation to 100° C. for 5 min. Removal of the solvent mixture under reduced pressure and purification by preparative HPLC on reversed phase (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) eluting with a gradient of acetonitrile/water provided 157 mg (56%) of the title compound. MS (ISP): 399.2 [M+H]+.

reactant | 2-(3-trifluoromethyl-phenoxy)-nicotinic acid | 0.71 mmol, 200 mg, 1.0 equiv | FC(C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H8F3NO3
reactant | 1,2,3,4-tetrahydro-quinoline | 0.85 mmol, 107 μL, 113 mg, 1.2 equiv | N1CCCC2=CC=CC=C12 | C9H11N
reactant | N-ethyldiisopropylamine | 3.53 mmol, 617 μL, 457 mg, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.85 mmol, 322 mg, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3,4-Dihydro-2H-quinolin-1-yl)-[2-(3-trifluoromethyl-phenoxy)-pyridin-3-yl]-methanone | 157 mg, 56% | N1(CCCC2=CC=CC=C12)C(=O)C=1C(=NC=CC1)OC1=CC(=CC=C1)C(F)(F)F | C22H17F3N2O2
